US05248823
77.2 ml of glacial acetic acid and 20.8 ml of nitric acid (98% strength) were mixed while cooling and then added dropwise within 2 hours to a solution of 65.8 g (0.35 mol) of 1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene in 154 ml of glacial acetic acid and 257 ml of acetic anhydride in a salt/ice bath. After the addition was complete, the reaction mixture was washed to room temperature and stirred overnight. The solution was then poured into water, and the precipitate was filtered off with suction, washed with water and dried. 79.7 g of crude 2-nitro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene of melting point 46°-50° C. were obtained.

reactant | nitric acid | 20.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 0.35 mol, 65.8 g | CC1(CCC(C2=CC=CC=C12)(C)C)C | C14H20
solvent | acetic acid | 154 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 257 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 77.2 ml | C(C)(=O)O | C2H4O2
product | 2-nitro-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 79.7 g | [N+](=O)([O-])C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C14H19NO2
